US07727979B2
Ethyl(3-chloro-2-oxo-cyclohexyl)-acetate (Starting Product for Example C-23)
The chlorination of ethyl(2-oxo-cyclohexyl)-acetate takes place in a manner similar to that described above for the preparation of 2-tert-butyl-6-chloro-cyclohexanone. The title compound is reacted as a crude product without further characterization.

reactant | ethyl(2-oxo-cyclohexyl)-acetate | C(C)OC(CC1C(CCCC1)=O)=O | C10H16O3
reactant | 2-tert-butyl-6-chloro-cyclohexanone | C(C)(C)(C)C1C(C(CCC1)Cl)=O | C10H17ClO
product | Ethyl(3-chloro-2-oxo-cyclohexyl)-acetate | C(C)OC(CC1C(C(CCC1)Cl)=O)=O | C10H15ClO3
